US06573293B2
5-[6-(5-Isopropyl-2-methoxyphenyl)-2-oxo-1,2-dihydroindol-3-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic Acid (2-pyrrolidin-1-ylethyl)amide
6-(5-Isopropyl-2-methoxyphenyl)-1,3-dihydroindol-2-one (50 mg, 0.17 mmol) was condensed with 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-pyrrolidin-1-yl-ethyl)amide (45 mg) to give 67 mg (75%) of the title compound as an orange solid.

reactant | 6-(5-Isopropyl-2-methoxyphenyl)-1,3-dihydroindol-2-one | 0.17 mmol, 50 mg | C(C)(C)C=1C=CC(=C(C1)C1=CC=C2CC(NC2=C1)=O)OC | C18H19NO2
reactant | 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-pyrrolidin-1-yl-ethyl)amide | 45 mg | N1(CCCC1)CCNC(=O)C1=C(NC(=C1C)C=O)C | C14H21N3O2
product | 5-[6-(5-Isopropyl-2-methoxyphenyl)-2-oxo-1,2-dihydroindol-3-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic Acid (2-pyrrolidin-1-ylethyl)amide | 67 mg, 75% | N1(CCCC1)CCNC(=O)C1=C(NC(=C1C)C=C1C(NC2=CC(=CC=C12)C1=C(C=CC(=C1)C(C)C)OC)=O)C | C32H38N4O3
